US08314097B2
A. 3-[3-(2-Bromobenzyl)-3H-imidazol-4-yl]-3-methylbutan-1-ol
To a solution of 4-[3-(tert-butyldimethylsilanyloxy)-1,1-dimethylpropyl]-1-trityl-1H-imidazole (650 mg, 1.27 mmol) in CH3CN (10 mL) at ambient temperature is added a solution of 2-bromobenzyl bromide (420 mg, 1.68 mmol) in CH3CN (10 mL). The resulting solution is stirred at 80° C. for 6 h. The mixture is cooled to ambient temperature and diethylamine (2 mL) is added, followed by MeOH (10 mL) and the mixture is heated at 75° C. for 1 hr and stirred at ambient temperature overnight. To the reaction mixture is added HCl/dioxane (4 M, 5 mL, 20 mmol) and stirred at ambient temperature for 1 h. The mixture is neutralized with saturated aqueous NaHCO3 and concentrated. The residue is partitioned between CH2Cl2 and brine. The organic layer is washed with brine, dried over Na2SO4 and concentrated to give an oil, which is subjected to flash chromatography (silica gel) eluting with MeOH:CH2Cl2 to yield the desired compound. MS (ESI) m/z 323 (M+H).

reactant | 4-[3-(tert-butyldimethylsilanyloxy)-1,1-dimethylpropyl]-1-trityl-1H-imidazole | 1.27 mmol, 650 mg | [Si](C)(C)(C(C)(C)C)OCCC(C)(C)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H42N2OSi
reactant | 2-bromobenzyl bromide | 1.68 mmol, 420 mg | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | diethylamine | 2 mL | C(C)NCC | C4H11N
reactant | HCl dioxane | 20 mmol, 4 M, 5 mL | Cl.O1CCOCC1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | MeOH | 10 mL | CO | CH4O
product | 3-[3-(2-Bromobenzyl)-3H-imidazol-4-yl]-3-methylbutan-1-ol | BrC1=C(CN2C=NC=C2C(CCO)(C)C)C=CC=C1 | C15H19BrN2O
